US06028080
e) 3-(2-Dimethylaminomethylphenoxy)phenylacetyl chloride
2 g of 3-(2-dimethylaminomethylphenoxy)-phenylacetic acid are treated with 20 ml of thionyl chloride and heated with stirring and under reflux for 1/2 an hour. The solvent is then removed. The residue is taken up with toluene and the solvent is again distilled off.

reactant | 3-(2-dimethylaminomethylphenoxy)-phenylacetic acid | 2 g | CN(C)CC1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC=C1 | C17H19NO3
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(2-Dimethylaminomethylphenoxy)phenylacetyl chloride | CN(C)CC1=C(OC=2C=C(C=CC2)CC(=O)Cl)C=CC=C1 | C17H18ClNO2
